US04335054
0.2877 g (0.5 millimol) of bis-(dibenzylideneacetone)-palladium(O), 9.98 g (50 millimols) of 2-methyl-5-nitrobenzoyl chloride, 3.31 g (62.5 millimols) of acrylonitrile and 17.68 g (50 millimols) of tris-(2-ethylhexyl)-amine, in 100 ml of cyclopentanone, are stirred for 1.5 hours at 100° C. The crude product is chromatographed on silica gel, in methylene chloride, and is then recrystallised from cyclohexane/carbon tetrachloride. 2.1 g (24% of theory) of 2-methyl-5-nitrocinnamonitrile are obtained in the form of white crystals; melting point 113.2° C.

reactant | 2-methyl-5-nitrobenzoyl chloride | 50 millimols, 9.98 g | CC1=C(C(=O)Cl)C=C(C=C1)[N+](=O)[O-] | C8H6ClNO3
reactant | acrylonitrile | 62.5 millimols, 3.31 g | C(C=C)#N | C3H3N
reactant | tris-(2-ethylhexyl)-amine | 50 millimols, 17.68 g | C(C)C(CN(CC(CCCC)CC)CC(CCCC)CC)CCCC | C24H51N
solvent | cyclopentanone | 100 ml | C1(CCCC1)=O | C5H8O
product | 2-methyl-5-nitrocinnamonitrile | 2.1 g, 24% | CC1=C(C=CC#N)C=C(C=C1)[N+](=O)[O-] | C10H8N2O2
